US07691902B2
To a suspension of t-BuOK (11.7 g, 96 mmol) in THF (200 mL) was added a solution of TosMIC (9.4 g, 48 mmol) in THF (100 mL) at −78° C. The mixture was stirred for 15 minutes, treated with a solution of 4-benzyloxy-3-chloro-benzaldehyde (7.5 g, 30 mmol) in THF (50 mL) dropwise, and continued to stir for 1.5 hours at −78° C. To the cooled reaction mixture was added methanol (30 mL). The mixture was heated at reflux for 30 minutes. Solvent of the reaction mixture was removed to give a crude product, which was dissolved in water (300 mL). The aqueous phase was extracted with EtOAc (3×100 mL). The combined organic layers were dried and evaporated under reduced pressure to give crude product, which was purified by column chromatography (petroleum ether/EtOAc 10:1) to afford 2-(4-(benzyloxy)-3-chlorophenyl)acetonitrile (2.7 g, 34%). 1H NMR (400 MHz, CDCl3) δ 7.52-7.32 (m, 6H), 7.15 (dd, J=2.4, 8.4 Hz, 1H), 6.95 (d, J=8.4 Hz, 1H), 5.26 (s, 2H), 3.73 (s, 2H). 13C NMR (100 MHz, CDCl3) δ 154.0, 136.1, 129.9, 128.7, 128.7, 128.1, 127.2, 127.1, 127.1, 124.0, 123.0, 117.5, 114.4, 70.9, 22.5.

reactant | t-BuOK | 96 mmol, 11.7 g | CC(C)(C)[O-].[K+]
reactant | TosMIC | 48 mmol, 9.4 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | 4-benzyloxy-3-chloro-benzaldehyde | 30 mmol, 7.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)Cl | C14H11ClO2
reactant | methanol | 30 mL | CO | CH4O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | 2-(4-(benzyloxy)-3-chlorophenyl)acetonitrile | 2.7 g, 34% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC#N)Cl | C15H12ClNO
